US03947593
To a stirred mixture of 31.3 g (0.1 mole) of N-ethyl-3,6-carbazolediol diacetate and 39.4 g (0.3 mole) of 1-bromo-2-chloroethane in 400 ml chlorobenzene is added 0.2 mole of sodium methoxide. Upon complete addition of the alkali, the mixture is refluxed with stirring for 18 hours, then cooled. The supernatant water layer is decanted and the residue is taken up in ethanol-chloroform to give 3,6-bis(2-chloroethoxy)-N-ethylcarbazole.

reactant | N-ethyl-3,6-carbazolediol diacetate | 0.1 mole, 31.3 g | C(C)(=O)OC=1C=CC=2N(C3=CC=C(C=C3C2C1)OC(C)=O)CC | C18H17NO4
reactant | 1-bromo-2-chloroethane | 0.3 mole, 39.4 g | BrCCCl | C2H4BrCl
reactant | sodium methoxide | 0.2 mole | C[O-].[Na+]
reactant | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3,6-bis(2-chloroethoxy)-N-ethylcarbazole | ClCCOC=1C=CC=2N(C3=CC=C(C=C3C2C1)OCCCl)CC | C18H19Cl2NO2
